US20010027196A1
2-Amino-4-(4-bromo-furan-2-yl)-6-[(5-methyl-pyridin-2-yl-methyl)-amino]-pyrimi dine-5-carbonitrile
From 2-amino-4-(4-bromo-furan-2-yl)-6-methanesulfinyl-pyrimidine-5-carbonitrile, C-(5-methyl-pyridin-2-yl)-methylamine dihydrochloride and DBU in DME. 387 (M{81Br}+H+, 100), 385 (M{79Br}+H+, 95).

reactant | 2-amino-4-(4-bromo-furan-2-yl)-6-methanesulfinyl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C=1OC=C(C1)Br)C#N)S(=O)C | C10H7BrN4O2S
reactant | C-(5-methyl-pyridin-2-yl)-methylamine dihydrochloride | Cl.Cl.CC=1C=CC(=NC1)CN
reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DME | COCCOC | C4H10O2
product | 2-Amino-4-(4-bromo-furan-2-yl)-6-[(5-methyl-pyridin-2-yl-methyl)-amino]-pyrimi dine-5-carbonitrile | NC1=NC(=C(C(=N1)C=1OC=C(C1)Br)C#N)NCC1=NC=C(C=C1)C | C16H13BrN6O
